US03974156
2-Hydroxymethyl-4-n-propylmorpholine (16.2 g.) is dissolved in dry pyridine (50 ml.) and a solution of toluene-p-sulphonylchloride (21.4 g.) in dry pyridine (50 ml.) is added dropwise with stirring. The mixture is stirred at 20°-≅°C. for 3 hours. The pyridine is removed under reduced pressure, water (100 ml.) is added to the residue and the product is extracted into ether (3 × 150 ml.). The ethereal solution is washed with water, dried (MgSO4), filtered and the ether evaporated to give 4-n-propyl-2-toluene-p-sulphonyloxymethylmorpholine (30.6 g.) as an oil which forms a hydrochloride, m.p. 172°-173°C. on recrystallisation from methanol/ether.

reactant | 2-Hydroxymethyl-4-n-propylmorpholine | 16.2 g | OCC1CN(CCO1)CCC | C8H17NO2
reactant | toluene-p-sulphonylchloride | 21.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-n-propyl-2-toluene-p-sulphonyloxymethylmorpholine | 30.6 g | C(CC)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C15H23NO4S
